US08703742B2
tert-Butyl 3-(3-(aminomethyl)-4-chloro-1-hydroxy-1,3-dihydro-benzo[c][1, 2]oxa-borol-7-yloxy)propylcarbamate
A mixture of tert-butyl 3-(4-chloro-1-hydroxy-3-(nitromethyl)-1,3-dihydrobenzo[c][1,2]oxaborol-7-yloxy)propylcarbamate (480 mg, 1.2 mmol), Raney-Ni (500 mg) and 2 M NH3 in EtOH (3 mL) in EtOH (15 mL) was shaken under an atmosphere of H2 for 2 h at room temperature. The mixture was filtered through a bed of Celite and the filtrate was concentrated in vacuo. The resulting solid was used directly for the next step.

reactant | tert-butyl 3-(4-chloro-1-hydroxy-3-(nitromethyl)-1,3-dihydrobenzo[c][1,2]oxaborol-7-yloxy)propylcarbamate | 1.2 mmol, 480 mg | ClC1=CC=C(C=2B(OC(C21)C[N+](=O)[O-])O)OCCCNC(OC(C)(C)C)=O | C16H22BClN2O7
reactant | NH3 | 2 M | N | H3N
solvent | EtOH | 3 mL | CCO | C2H6O
solvent | EtOH | 15 mL | CCO | C2H6O
catalyst | Ni | 500 mg | [Ni] | Ni
product | tert-Butyl 3-(3-(aminomethyl)-4-chloro-1-hydroxy-1,3-dihydro-benzo[c][1, 2]oxa-borol-7-yloxy)propylcarbamate | NCC1C2=C(B(O1)O)C(=CC=C2Cl)OCCCNC(OC(C)(C)C)=O | C16H24BClN2O5
